US05446189
A mixture of 1.7 g (3.2 mmol) of N-[3-hydroxy-5-[(12-phenoxydodecyl)oxy]phenyl]-N-(2-methoxy-2-oxoethyl)glycine methyl ester, 1.5 g (3.37 mmol) of 1-(6-bromohexyl)-2,3-bis(phenylmethoxy)benzene, 1.3 g (9.6 mmol) of potassium carbonate and 0.96 g (6.4 mmol) of sodium iodide in 60 ml of acetone and 20 ml of DMF was stirred at reflux under argon for 7 days. Theusual workup followed by purification by HPLC using 25% ethyl acetate-hexane gave 2.15 g (74% yield) of N-[3-[6-(2,3-bisphenylmethoxy)phenyl]hexyloxy]-5-[(12-phenoxydodecyl)oxy]phenyl]-N-(2-methoxy-2-oxoethyl)glycine methyl ester as an oil. The nmr and mass spectra were consistent with the structure.

reactant | N-[3-hydroxy-5-[(12-phenoxydodecyl)oxy]phenyl]-N-(2-methoxy-2-oxoethyl)glycine methyl ester | 3.2 mmol, 1.7 g | COC(CN(CC(=O)OC)C1=CC(=CC(=C1)OCCCCCCCCCCCCOC1=CC=CC=C1)O)=O | C30H43NO7
reactant | 1-(6-bromohexyl)-2,3-bis(phenylmethoxy)benzene | 3.37 mmol, 1.5 g | BrCCCCCCC1=C(C(=CC=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C26H29BrO2
reactant | potassium carbonate | 9.6 mmol, 1.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 6.4 mmol, 0.96 g | [I-].[Na+]
solvent | acetone | 60 ml | CC(=O)C | C3H6O
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | N-(2-methoxy-2-oxoethyl)glycine methyl ester | COC(CNCC(=O)OC)=O | C6H11NO4
